US08865713B2
Step A: 4-chloro-2-nitro-5-m-tolylsulfanyl-phenylamine.
A mixture of 3-methyl-benzenethiol (2.30 mL, 19.3 mmol), 4,5-dichloro-2-nitro-phenylamine (2.00 g, 9.66 mmol), potassium carbonate (2.67 g, 19.3 mmol), and DMF (48 mL) was heated at 90° C. for 16 h. The reaction mixture was cooled to 23° C. EtOAc was added and the organic layer was washed with saturated aqueous NaHCO3 (2×80 mL) and brine (1×80 mL). The aqueous layers were extracted with EtOAc (3×80 mL). The organic layers were combined, dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (0-100% EtOAc/hexanes) to yield the titled compound (2.30 g, 81%). 1H NMR (400 MHz, CDCl3): 8.12 (s, 1H), 7.41-7.36 (m, 3H), 7.34-7.30 (m, 1H), 5.95 (s, 1H), 5.88 (br s, 2H), 2.41 (s, 3H).

reactant | 3-methyl-benzenethiol | 19.3 mmol, 2.30 mL | CC=1C=C(C=CC1)S | C7H8S
reactant | 4,5-dichloro-2-nitro-phenylamine | 9.66 mmol, 2.00 g | ClC1=CC(=C(C=C1Cl)N)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | potassium carbonate | 19.3 mmol, 2.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 48 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-2-nitro-5-m-tolylsulfanyl-phenylamine | 2.30 g, 81% | ClC1=CC(=C(C=C1SC=1C=C(C=CC1)C)N)[N+](=O)[O-] | C13H11ClN2O2S
